US07414063B2
{[3-(2-benzyl-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amino}-acetonitrile
By following similar procedure as described in Preparation 93, N-alkylation of [3-(2-benzyl-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amine with bromoacetonitrile gives the title compound as oil. FABMS: m/z 506 (M)+, 507 (M+H)+.

reactant | [3-(2-benzyl-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amine | C(C1=CC=CC=C1)C1=C(OCCCNC(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C=CC=C1 | C31H33NO3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | {[3-(2-benzyl-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amino}-acetonitrile | C(C1=CC=CC=C1)C1=C(OCCCN(C(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)CC#N)C=CC=C1 | C33H34N2O3
